US09107916B2
B. 2-[5-[(4-chloro-2-phenylmethoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-phenylmethoxyphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.11 (2H, s), 5.27 (2H, s), 5.74 (1H, d, J=2.0 Hz), 6.98-7.00 (2H, m), 7.33-7.39 (7H, m), 7.55 (1H, d, J=2.0 Hz), 7.99 (1H, s), 8.67 (1H, d, J=5.2 Hz). [M+H] Calc'd for C23H17ClN4O2, 417. Found, 417.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-phenylmethoxyphenyl)methanol | ClC1=CC(=C(C=C1)CO)OCC1=CC=CC=C1 | C14H13ClO2
product | 2-[5-[(4-chloro-2-phenylmethoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCC1=CC=CC=C1 | C23H17ClN4O2
